US05010100
Step B: Preparation of 1-(5-(2-t-butyldimethylsilyloxyethylsulfonyl)-4-n-propoxy-3-methoxyphenyl)-4-oxo -4-(3,4,5-trimethoxyphenyl)-1-butanol
A solution of 1-(5-(2-t-butyldimethylsilyloxyethylsulfonyl)-4-n-propoxy-3-methoxyphenyl)-4-(3,4,5-trimethoxyphenyl)butan-1,4-dione (1.076 g, 1.70 mmole) at 0° C. in dry THF (40 mL) under nitrogen was treated with lithium tri-t-butoxyaluminum hydride (500 mg, 2 mmole), and the mixture was stirred at 0° C. for 1 hour. The reaction was allowed to warm to room temperature and stirred for 3 hours. The mixture was poured into ethyl acetate (500 mL), and the ethyl acetate solution was washed with 1 N HCl (2×100 mL), water and brine, dried over anhydrous MgSO4, and evaporated to dryness. The crude product was purified by flash column chromatography on SiO2 and eluted with 40% hexane ethyl acetate (3:2 v/v) to provide the pure title product as a thick syrup.

reactant | 1-(5-(2-t-butyldimethylsilyloxyethylsulfonyl)-4-n-propoxy-3-methoxyphenyl)-4-(3,4,5-trimethoxyphenyl)butan-1,4-dione | 1.70 mmole, 1.076 g | [Si](C)(C)(C(C)(C)C)OCCS(=O)(=O)C=1C(=C(C=C(C1)C(CCC(=O)C1=CC(=C(C(=C1)OC)OC)OC)=O)OC)OCCC | C31H46O10SSi
reactant | lithium tri-t-butoxyaluminum hydride | 2 mmole, 500 mg | [H-].C(C)(C)(C)O[Al](OC(C)(C)C)OC(C)(C)C.[Li+]
reactant | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1-(5-(2-t-butyldimethylsilyloxyethylsulfonyl)-4-n-propoxy-3-methoxyphenyl)-4-oxo -4-(3,4,5-trimethoxyphenyl)-1-butanol | [Si](C)(C)(C(C)(C)C)OCCS(=O)(=O)C=1C(=C(C=C(C1)C(CCC(C1=CC(=C(C(=C1)OC)OC)OC)=O)O)OC)OCCC | C31H48O10SSi
